US06479486B2
(1R*,2R*,4′S*,5S*,6R*)-8-Benzyl-4′-(2-benzyloxy-5-trifluoromethoxyphenyl)-2′,3′,4′,5′-tetrahydro-1-phenyl-6-phenylsulfonylspiro[8-azabicyclo[3.2.1]octane-2,2′-furan]
Palladium acetate (140 mg, 0.6 mmol) was added to a degassed suspension of (1R*,2R*,5S*,6R*)-8-benzyl-2′,5′-dihydro-1-phenyl-6-phenylsulfonylspiro[8-azabicyclo[3.2.1]octane-2,2′-furan] (Description 15; 2.9 g, 6.15 mmol), 2-benzyloxy-5-trifluoromethoxyiodobenzene (7.3 g, 18.5 mmol), tetrabutylammonium chloride, (1.7 g, 6.15 mmol), lithium chloride (2.6 g, 62 mmol), triethylamine (2.6 ml, 18 mmol), potassium formate (1.56 g, 18.5 mmol), N,N-dimethylformamide (40 ml) and water (3 ml). The mixture was stirred at 60° C. for 72 hours then partitioned between brine and ethyl acetate. The organic layer was washed (×3) with water then dried (MgSO4), filtered and concentrated in vacuo. The residue was chromatographed on silica gel eluting with 5, 10, 15 and 30% ethyl acetate/iso-hexanes to yield the title compound (2.0 g, 44%).

reactant | (1R*,2R*,5S*,6R*)-8-benzyl-2′,5′-dihydro-1-phenyl-6-phenylsulfonylspiro[8-azabicyclo[3.2.1]octane-2,2′-furan] | 6.15 mmol, 2.9 g | C(C1=CC=CC=C1)N1[C@]2(C[C@H]([C@@H]1CC[C@]21OCC=C1)S(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C29H29NO3S
reactant | 2-benzyloxy-5-trifluoromethoxyiodobenzene | 18.5 mmol, 7.3 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC(F)(F)F)I | C14H10F3IO2
reactant | lithium chloride | 62 mmol, 2.6 g | [Cl-].[Li+]
reactant | triethylamine | 18 mmol, 2.6 ml | C(C)N(CC)CC | C6H15N
reactant | potassium formate | 18.5 mmol, 1.56 g | C(=O)[O-].[K+]
catalyst | tetrabutylammonium chloride | 6.15 mmol, 1.7 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | Palladium acetate | 0.6 mmol, 140 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 3 ml | O | H2O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | (1R*,2R*,4′S*,5S*,6R*)-8-Benzyl-4′-(2-benzyloxy-5-trifluoromethoxyphenyl)-2′,3′,4′,5′-tetrahydro-1-phenyl-6-phenylsulfonylspiro[8-azabicyclo[3.2.1]octane-2,2′-furan] | 2.0 g, 44% | C(C1=CC=CC=C1)N1[C@]2(C[C@H]([C@@H]1CC[C@]21OC[C@@H](C1)C1=C(C=CC(=C1)OC(F)(F)F)OCC1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C43H40F3NO5S
